US05714496
A mixture of 3-(4-bromophenyl)-5-hydroxy-1-methylpyrazole (2.5 g), acetone (200 ml), potassium carbonate (1.6 g) and methyl iodide (1.4 g) was heated at reflux for 2 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by flash column chromatography on silica gel using 10% ethyl acetate/toluene as eluent to give 3-(4-bromophenyl)-5-methoxy-1-methypyrazole (590 mg) as a solid, m.p. 71°-73° C.; NMR: 3.6(3H,s), 3.9(3H,s), 6.2(1H,s), 7.5-7.6(2H,d) and 7.6-7.7(2H,d).

reactant | 3-(4-bromophenyl)-5-hydroxy-1-methylpyrazole | 2.5 g | BrC1=CC=C(C=C1)C1=NN(C(=C1)O)C | C10H9BrN2O
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.4 g | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-(4-bromophenyl)-5-methoxy-1-methypyrazole | 590 mg | BrC1=CC=C(C=C1)C1=NN(C(=C1)OC)C | C11H11BrN2O
